US07459263B2
Synthesis of dibutyl 4,4′-biphenyldicarboxylate (CS-6)
A mixture of biphenyl-4,4′-dicarboxylic acid (15.2 g, 63 mmol), 100 mL of n-butanol, 200 mL of toluene, and a catalytic amount of p-toluenesulfonic acid was heated at reflux with continuous separation of evolved water (Dean-Stark trap) for 7 d. The reaction mixture was cooled to ambient, diluted with dichloromethane, filtered, washed with 10% aqueous NaHCO3 then with brine, dried (MgSO4), and concentrated. The crude product was purified by recrystallization from heptane to obtain 13.4 g (60% of theory) of colorless crystals. 1H NMR (CDCl3): δ 0.97 (t, 6H), 1.5 (m, 4H), 1.8 (m, 4H), 4.35 (q, 4H), 7.68 (d, 4H), 8.13 (d, 4H).

reactant | biphenyl-4,4′-dicarboxylic acid | 63 mmol, 15.2 g | C1(=CC=C(C=C1)C(=O)O)C1=CC=C(C=C1)C(=O)O | C14H10O4
reactant | n-butanol | 100 mL | C(CCC)O | C4H10O
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | dibutyl 4,4′-biphenyldicarboxylate | C1(=CC=C(C=C1)C(=O)OCCCC)C1=CC=C(C=C1)C(=O)OCCCC | C22H26O4
